US04935430
(a) 2-Methylimidazo[4,5-c]pyridine
A mixture of 3,4-diaminopyridine (20.0 g, 183 mmol) and acetic anhydride (360 ml) was heated at 100° C. for 16 hours. The excess reagent was removed under reduced pressure, and the residue was purified by flash chromatography eluting with ethyl acetate:methanol, 3:1. The product was a brown solid, (15.5 g, 64%).

reactant | 3,4-diaminopyridine | 183 mmol, 20.0 g | NC=1C=NC=CC1N | C5H7N3
reactant | acetic anhydride | 360 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Methylimidazo[4,5-c]pyridine | CC=1NC2=C(C=NC=C2)N1 | C7H7N3
